US06100233
Preparation of 3,7-dimethyl-1,6-octadien-3-yl 3-(hexyl)-3-oxo-propionate
3,7-Dimethyl-1,6-octadien-3-yl 3-oxo-butyrate (30.00 g, 0.126 mol), dichloromethane (50 mL) and methyl ethyl ketone (10 mL) are combined in a 500 mL three-necked round-bottomed flask fitted with an internal thermometer, addition funnel, condenser and argon inlet. Calcium hydroxide (9.80 g, 0.132 mol, powdered) is added to the flask and the slurry stirs for 1 h. Heptanoyl chloride (17.84 g, 0.120 mol) in 10 ml of dichloromethane is added over 15 min so as to keep the reaction temperature between 35-40° C. The reaction continues to stir at 35-40° C. for 2 h. Ammonium chloride (7.06 g, 0.132 mol) dissolved in 20 mL of water is added to the flask. After 20 min, concentrated ammonium hydroxide is added to the mixture to adjust the pH to ~9.0. After 1 h, 20% HCl solution is added to drop the pH to ~1.0. After 1 h, the mixture is poured into 300 mL of dichloromethane. The layers are separated and the aqueous phase extracted with 100 mL of dichloromethane. The combine organic layers are washed with saturated NaHCO3 solution, water, dried over MgSO4, filtered, concentrated by rotary evaporation and purified by flash chromatography to yield the desired compound. Structure is confirmed my 1H and 13C NMR.

reactant | 3,7-Dimethyl-1,6-octadien-3-yl 3-oxo-butyrate | 0.126 mol, 30.00 g | O=C(CC(=O)OC(C=C)(CCC=C(C)C)C)C | C14H22O3
reactant | Calcium hydroxide | 0.132 mol, 9.80 g | [OH-].[Ca+2].[OH-]
reactant | Heptanoyl chloride | 0.120 mol, 17.84 g | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | Ammonium chloride | 0.132 mol, 7.06 g | [Cl-].[NH4+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | HCl | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | methyl ethyl ketone | 10 mL | C(C)C(=O)C | C4H8O
product | 3,7-dimethyl-1,6-octadien-3-yl 3-(hexyl)-3-oxo-propionate | C(CCCCC)C(CC(=O)OC(C=C)(CCC=C(C)C)C)=O | C19H32O3
